* extracted by klt extract --deck sky130

* cell cdac_unit_cell
* pin BOT
* pin SEL
* pin TOP
* pin VDD
* pin VREFN
* pin VREFP
* pin vsubs
.SUBCKT cdac_unit_cell BOT SEL TOP VDD VREFN VREFP vsubs
* device instance $1 r0 *1 5.545,-9.5 nfet
M$1 BOT SEL VREFN vsubs nfet L=0.15U W=1U AS=0.47P AD=0.47P PS=2.94U PD=2.94U
* device instance $2 r0 *1 5.545,-6.58 pfet
M$2 BOT SEL VREFP VDD pfet L=0.15U W=2U AS=0.94P AD=0.94P PS=4.94U PD=4.94U
* device instance $3 r0 *1 0,0.35 sky130_fd_pr__model__cap_mim
C$3 BOT TOP 8.647288e-15
.ENDS cdac_unit_cell
