* NEGATIVE CONTROL 2/2 for the comparator LVS flow (issue #101) -- a
* DELIBERATELY WRONG reference. `klt lvs` MUST report "mismatch" against
* this file; layout/comparator/bin/render-record.py asserts exactly that
* (verdict 5) and fails the record if it ever comes back "match".
*
* Corruption class: TOPOLOGY ONLY. M_LATN_N's gate is tied to OUTN instead
* of OUTP -- i.e. the regenerative latch's cross-coupling is broken into a
* self-gated device on one side. Every device's L and W is byte-identical to
* the known-good reference, so a comparison that only compared device
* parameters would pass this file and prove nothing about connectivity
* checking.
*
* The specific edit is chosen to be the kind of wrong that matters here: the
* cross-coupled pair IS the regeneration mechanism, and a layout that wired
* one side straight instead of crossed would still contain the right nine
* devices at the right sizes. If LVS cannot tell those two apart, its
* "match" verdict on this sub-block is worthless.
*
* Paired with reference.broken-device.spice (parameters changed, topology
* untouched). Same discipline, same reason as
* layout/trivial-cell/reference.broken-topology.spice, which established
* this convention for the repo (issue #2).
*
* DO NOT "FIX" THIS FILE. Its wrongness is the whole point; a change that
* made it match would silently delete a verification verdict.
.SUBCKT comparator VDD GND CLK VINP VINN OUTP OUTN
M_TAIL TAIL CLK GND GND nfet L=0.5U W=8U
M_INN OUTP VINN TAIL GND nfet L=0.5U W=4U
M_INP OUTN VINP TAIL GND nfet L=0.5U W=4U
M_LATN_P OUTP OUTN GND GND nfet L=0.5U W=4U
M_LATN_N OUTN OUTN GND GND nfet L=0.5U W=4U
M_LATP_P OUTP OUTN VDD VDD pfet L=0.5U W=8U
M_LATP_N OUTN OUTP VDD VDD pfet L=0.5U W=8U
M_RST_P OUTP CLK VDD VDD pfet L=0.5U W=16U
M_RST_N OUTN CLK VDD VDD pfet L=0.5U W=16U
.ENDS comparator
